US08486952B2
2-chloro-N-methoxy-N-methyl-6-(methylamino)-5-vinylpyrimidine-4-carboxamide
A solution of 5-bromo-2-chloro-N-methoxy-N-methyl-6-(methylamino)pyrimidine-4-carboxamide (100 mg), tributyl(vinyl)stannane (113 mg), tetrakis (23 mg) in toluene (1.6 mL) was heated at 95° C. for 12 h, and the solvent was removed. The residue was purified by preparative TLC eluting with 50% EtOAc/Hexanes to give the title compound as a colorless oil (23 mg). LC-MS (M+H)+=257.06.

reactant | 5-bromo-2-chloro-N-methoxy-N-methyl-6-(methylamino)pyrimidine-4-carboxamide | 100 mg | BrC=1C(=NC(=NC1NC)Cl)C(=O)N(C)OC | C8H10BrClN4O2
reactant | tributyl(vinyl)stannane | 113 mg | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 1.6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis | 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-N-methoxy-N-methyl-6-(methylamino)-5-vinylpyrimidine-4-carboxamide | 23 mg | ClC1=NC(=C(C(=N1)C(=O)N(C)OC)C=C)NC | C10H13ClN4O2
